US04544667
Step A: Preparation of 5-Dibenzylaminobenzo[b]furan
A stirred solution of 5-aminobenzo[b]furan hydrochloride in dry DMSO is treated with excess benzyl bromide followed by solid NaHCO3 to give the title compound.

reactant | 5-aminobenzo[b]furan hydrochloride | Cl.NC1=CC2=C(OC=C2)C=C1
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 5-Dibenzylaminobenzo[b]furan | C(C1=CC=CC=C1)N(C1=CC2=C(OC=C2)C=C1)CC1=CC=CC=C1 | C22H19NO
